US08871753B2
Step B: N-(3-Nitrobenzyl)benzene-1,3-diamine dihydrochloride
tert-Butyl {3-[(3-nitrobenzyl)amino]phenyl}carbamate (7.15 g, 0.021 mol) was mixed with 4 M of hydrogen chloride in 1,4-dioxane (68.3 mL) and stirred at rt for 1 hour and concentrated to give the desired product (6.32 g, 96%) as an off-white powder. LCMS for C13H14N3O2 (M+H)+: m/z=244.1.

reactant | tert-Butyl {3-[(3-nitrobenzyl)amino]phenyl}carbamate | 0.021 mol, 7.15 g | [N+](=O)([O-])C=1C=C(CNC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H21N3O4
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 68.3 mL | O1CCOCC1 | C4H8O2
product | N-(3-Nitrobenzyl)benzene-1,3-diamine dihydrochloride | 6.32 g, 96% | Cl.Cl.[N+](=O)([O-])C=1C=C(CNC2=CC(=CC=C2)N)C=CC1 | InChI=1S/C13H13N3O2.2ClH/c14-11-4-2-5-12(8-11)15-9-10-3-1-6-13(7-10)16(17)18;;/h1-8,15H,9,14H2;2*1H
